US06387911B1
2-Cyano-3-(ethylthio)pyridine
To a stirred suspension of sodium ethanethiolate (600 mg, 5.75 mmol) in dry THF (25 mL) was added 3-bromo-2-cyanopyridine (700 mg, 3.83 mmol). The reaction mixture was heated to reflux under N2 for 3 h. The solvent was removed in vacuo and the resulting residue was taken Lip in CH2Cl2 (35 mL). The solution was filtered to remove precipitated sodium bromide and the filtrate was concentrated at reduced pressure to afford the title compound as a yellow oil:

reactant | sodium ethanethiolate | 5.75 mmol, 600 mg | C(C)[S-].[Na+]
reactant | 3-bromo-2-cyanopyridine | 3.83 mmol, 700 mg | BrC=1C(=NC=CC1)C#N | C6H3BrN2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-Cyano-3-(ethylthio)pyridine | C(#N)C1=NC=CC=C1SCC | C8H8N2S
